US04457862
75 ml of dry tetrahydrofuran and 23 g of magnesium shavings are added to a round flask which is fitted with a stirrer, thermometer, dropping funnel and reflux condenser. Without stirring there is added thereto slowly (within 4 hours) a solution of 112.4 g of 1-methyl-2-chloromethyl-3-(prop-1-en-2-yl)-cyclopent-1-ene in 100 ml of tetrahydrofuran. The mixture is brought to 60°-65° for 1 hour and then cooled to -10°. A carbon dioxide stream is conducted through the solution, which is cooled to -10° C. The amount of carbon dioxide introduced is weighed; it amounts to 29.5 g. The mixture is left to stand at room temperature overnight. The mixture is then cooled to 10° C. and decomposed with 300 ml of a 10% hydrochloric acid solution. The acid solution is extracted with ether, the organic acid formed is taken up as the sodium salt (treatment with 10% sodium hydroxide) from the ether into the aqueous phase, which is washed with ether. After acidifying with 10% orthophosphoric acid, the mixture is extracted with ether and the etherial solution is dried over sodium sulphate. The solvent is evaporated and there are obtained 78.2 g (yield: 66%) of crude 3-isopropenyl-2-methylene-1-methyl-cyclopentanecarboxylic acid, which are recrystallized with hexane.

reactant | magnesium | 23 g | [Mg] | Mg
reactant | 1-methyl-2-chloromethyl-3-(prop-1-en-2-yl)-cyclopent-1-ene | 112.4 g | CC1=C(C(CC1)C(=C)C)CCl | C10H15Cl
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium | [Na] | Na
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-isopropenyl-2-methylene-1-methyl-cyclopentanecarboxylic acid | 78.2 g, yield: 66% | C(=C)(C)C1C(C(CC1)(C(=O)O)C)=C | C11H16O2
